US07977344B2
2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine
2,6-dichloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine (3.08 g, containing triphenylphosphine oxide) was heated with 2M ammonia in IPA (50 mL) at 50° C., overnight. The reaction mixture was then evaporated to dryness to give a yellow solid. This material (3.2089 g) was recrystallised using methanol (50 mL) and after cooling the resultant solid was filtered and washed with methanol (5 mL) to give the title compound (1.5554 g). The filtrate was evaporated and recrystallised from methanol (25 mL) and after cooling the resultant solid was filtered to give a second crop (0.2324 g) and was consistent with first batch by NMR and LCMS.

reactant | 2,6-dichloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine | 3.08 g | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)Cl | C11H12Cl2N4O
reactant | ammonia | 2M | N | H3N
solvent | IPA | 50 mL | CC(C)O | C3H8O
product | 2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 1.5554 g | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C11H14ClN5O
